US09351974B2
Step b: Synthesis of ethyl N-phenylalaninate
To a stirred solution of aniline (4.55 mL, 50 mmol) and triethylamine (7 mL, 50 mmol) in anhydrous dichloromethane (120 mL) was added a solution of ethyl 2-{[(trifluoromethyl)sulfonyl]oxy}propanoate (12.5 g, 50 mmol) in dichloromethane (60 mL) at 0° C. (Ice bath) over a period of 30 minutes under nitrogen. The ice bath was then removed and the reaction mixture was stirred at 35° C. for 2 h. The reaction mixture was cooled to rt, washed with water, dried over sodium sulfate, and evaporated to give desired product as oil (8.9 g, 92%) which was used as such for the next step. 1HNMR (300 MHz, CDCl3): δ 1.19-1.67 (m, 6H), 4.17-4.38 (m, 3H), 6.65-6.80 (m, 3H), 7.20-7.35 (m, 2H).

reactant | aniline | 50 mmol, 4.55 mL | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-{[(trifluoromethyl)sulfonyl]oxy}propanoate | 50 mmol, 12.5 g | FC(S(=O)(=O)OC(C(=O)OCC)C)(F)F | C6H9F3O5S
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | ethyl N-phenylalaninate | 8.9 g, 92% | C1(=CC=CC=C1)N[C@@H](C)C(=O)OCC | C11H15NO2
